US05248817
Synthesis of 2-Bromo-3,4,5-trimethoxybenzoic Acid
Using the procedure described herein above in Example 1, Method E, 3,4,5-trimethoxybenzoic acid was brominated with DBDMH to provide the following results (assay yields) after reacting for 25 hours at 20°-25° C.:

reactant | 3,4,5-trimethoxybenzoic acid | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | DBDMH | CC1(C(=O)N(C(=O)N1Br)Br)C | C5H6Br2N2O2
product | 2-Bromo-3,4,5-trimethoxybenzoic Acid | BrC1=C(C(=O)O)C=C(C(=C1OC)OC)OC | C10H11BrO5
